US07414060B2
6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (4-cyclopropyl-thiazol-2-yl)-amide
The tide compound was prepared from 3-tert-Butoxy-carbonylamino-6-methyl-pyridine-2-carboxylic acid methyl ester in accordance with the general method of example 4; step 2 using 4-Cyclopropyl-thiazol-2-ylamine instead of 2-chloro-4-aminopyridine to yield [2-(4-Cyclopropyl-thiazol-2-ylcarbamoyl)-6-methyl-pyridin-3-yl]-carbamic acid tert-butyl ester as a yellow solid, MS (ISP): m/e=375.4 (M+H+). Boc-deprotection as described in example 4 step 3 yielded 3-Amino-6-methyl-pyridine-2-carboxylic acid (4-cyclopropyl-thiazol-2-yl)-amide as a yellow solid, MS (ISP): m/e=275.1 (M+H+). Palladium catalysed arylation in accordance with the general method of example 20, using 5-Bromopyrimidine instead of 3bromopyridine yielded the final compound as a light yellow solid, MS (ISP): m/e=357.1 (M+H+).

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid (4-cyclopropyl-thiazol-2-yl)-amide | C1(CC1)C=1N=C(SC1)NC(=O)C1=NC(=CC=C1N)C | C13H14N4OS
reactant | 5-Bromopyrimidine | BrC=1C=NC=NC1 | C4H3BrN2
catalyst | Palladium | [Pd] | Pd
product | 6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (4-cyclopropyl-thiazol-2-yl)-amide | C1(CC1)C=1N=C(SC1)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C | C17H16N6OS
